US08242125B2
3-Carbamoyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.22 g, 1.03 mmol) is dissolved in DCM (5 mL). TFA (2 mL, 26.0 mmol) is added and the reaction is allowed to stir at rt overnight. The solvent is removed in vacuo and THF (5.0 mL) is added followed by methanesulfonic acid 6-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-4-ylmethyl ester (0.347 g, 0.685 mmol) and DIEA (0.60 mL, 3.42 mmol). The reaction is heated at 60° C. for 19 h. The solvent is removed in vacuo and the residue separated by FCC (0-15%, 10% NH3MeOH/DCM) to provide (±)-5-[6-(3-carbamoyl-pyrrolidin-1-ylmethyl)-pyrimidin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide. MS (ESI) m/z 524.9 (M+1); 1H NMR (400 MHz, DMSO-d6) δ ppm 10.41 (s, 1H), 8.72 (s, 1H), 8.30 (d, J=8.84 Hz, 1H), 8.14 (d, J=3.79 Hz, 1H), 8.10 (s, 1H), 7.97 (s, 1H), 7.65 (t, J=8.08 Hz, 1H), 7.51 (d, J=2.53 Hz, 2H), 7.16 (dd, J=8.84, 2.27 Hz, 1H), 7.12 (s, 1H), 6.81 (d, J=3.54 Hz, 1H), 3.63 (br. S., 1H), 3.14 (d, J=7.33 Hz, 1H), 2.94 (br. S., 1H), 1.99 (br. S., 1H), 1.25 (d, J=6.06 Hz, 6H).

reactant | 3-Carbamoyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.03 mmol, 0.22 g | C(C)(C)(C)OC(=O)N1CC(CC1)C(N)=O | C10H18N2O3
reactant | TFA | 26.0 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methanesulfonic acid 6-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-4-ylmethyl ester | 0.685 mmol, 0.347 g | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=N1)COS(=O)(=O)C)(F)F | C22H17F3N4O5S
reactant | DIEA | 3.42 mmol, 0.60 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (±)-5-[6-(3-carbamoyl-pyrrolidin-1-ylmethyl)-pyrimidin-4-yloxy]-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)CN1CC(CC1)C(N)=O)(F)F | C26H23F3N6O3
